US07655666B2
N-[7-Fluoromethyl-6-(2-isopropyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
To a solution of 2-amino-4-fluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (243 mg, 0.834 mmol) in DCM (15 mL) were added Et3N (0.35 mL, 3 equiv) and then (CCl3O)2CO (177 mg, 0.7 equiv). The resulting mixture was stirred at r.t. for 1 h. The solvent was removed in vacuo and the crude solubilised in THF. CH3SO2NHNH2 (101 mg, 1.1 equiv) was added and the mixture was stirred at r.t. for 1 h. Then, aq NaOH (1N, 0.92 mL) was added and the mixture was stirred for 30 min. The solvent was removed in vacuo and water was added. The pH was adjusted to 3-4 by addition of 1N aq HCl. The aqueous phase was extracted with AcOEt twice. The organic phases were combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford a crude solid. This solid was dissolved into 10 mL of DCM and then 10 ml of hexanes was added. The mixture was sonicated for 1 min. The resulting solid was filtered off, washed with hexanes and high-vacuum dried to afford the title compound (227 mg, 69%) as an off-white solid. (ES-MS: m/z 396.4 [M+H]+, rt 4.39 min). 1H-NMR (DMSO-d6, 400 MHz) 11.07 (bs, 1H); 7.76 (d, 1H, J=1.07 Hz); 7.55 (d, 1H, J=1.58 Hz); 7.40 (s, 1H); 6.30 (d, 1H, J=1.77 Hz); 5.30 (d, 2H, J=46.55 Hz); 4.14 (m, 1H); 3.16 (s, 1H); 1.31 (d, 6H, J=6.51 Hz).

reactant | 2-amino-4-fluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 0.834 mmol, 243 mg | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C(C)C)CF)N)=O | C15H18FN3O2
reactant | Et3N | 0.35 mL, 3 equiv | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 101 mg, 1.1 equiv | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1N, 0.92 mL | [OH-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[7-Fluoromethyl-6-(2-isopropyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 227 mg, 69% | FCC1=C(C=C2C(N(C(NC2=C1)=O)NS(=O)(=O)C)=O)C=1N(N=CC1)C(C)C | C16H18FN5O4S
